US08492414B2
[3-(4-Methoxyphenyl)-[1,2,4]thiadiazol-5-yl]-methanol: (IV-b)
To a solution of 3-(4-methoxyphenyl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester (0.24 g, 0.90 mmol) in MeOH (10 ml) was added sodium borohydride (0.058 g, 1.54 mmol) portion wise. The resulting reaction mixture was stirred at room temperature for 2 h. After the completion of the reaction (TLC monitoring), the reaction mass was cooled to 0° C., quenched it with 2 ml of water and concentrated under vacuum. Added water (50 ml) and extracted with ethyl acetate (3×50 ml). The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum. The crude residue was purified over silica gel (100-200 M, 20% EtOAc-Hexane) to get the product (0.072 g, 43%) that was carried forward to the next step without further purification.

reactant | 3-(4-methoxyphenyl)-[1,2,4]thiadiazole-5-carboxylic acid ethyl ester | 0.90 mmol, 0.24 g | C(C)OC(=O)C1=NC(=NS1)C1=CC=C(C=C1)OC | C12H12N2O3S
reactant | sodium borohydride | 1.54 mmol, 0.058 g | [BH4-].[Na+]
solvent | MeOH | 10 ml | CO | CH4O
product | [3-(4-Methoxyphenyl)-[1,2,4]thiadiazol-5-yl]-methanol | 0.072 g, 43% | COC1=CC=C(C=C1)C1=NSC(=N1)CO | C10H10N2O2S
